US06599917B1
b) 3-Benzyl-5-(N-methyl-tert-butoxycarbonylamino)-2-methoxypyridine
970 mg of 3-benzyl-5-tert-butoxycarbonylamino-2-methoxypyridine was dissolved in 10 ml of N,N-dimethylformamide, followed by. adding 200 mg of 60% oily sodium hydride thereto. After stirring at room temperature, 0.192 ml of methyl iodide was added thereto in an ice bath. After the returned to room temperature, water was added and the mixture was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and evaporated, to give 920 mg of the target compound.

reactant | 3-benzyl-5-tert-butoxycarbonylamino-2-methoxypyridine | 970 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)NC(=O)OC(C)(C)C)OC | C18H22N2O3
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | methyl iodide | 0.192 ml | CI | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Benzyl-5-(N-methyl-tert-butoxycarbonylamino)-2-methoxypyridine | 920 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)N(C)C(=O)OC(C)(C)C)OC | C19H24N2O3
